US05571821
4-(Ethylamino)-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide
Sodium borohydride (71 mg, 3.74 mmol) was added to a solution of acetic acid (740 mg, 12 mmol) in dry benzene (5 ml) with the temperature being kept at 20° C. When the evolution of hydrogen gas had ceased (ca. 5 min), 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide (0.5 g, 1.87 mmol) was added in one lot and the reaction mixture was refluxed for 3 h. The reaction was cooled and shaken with saturated sodium bicarbonate solution. The organic layer was then washed with brine (2×20 ml), dried over magnesium sulfate and evaporated. the crude product was purified by column chromatography on silica gel using 1% methanol in chloroform as eluent to give 103 mg (19%) of a colorless oil. Further purification by HPLC gave a white solid, m.p. 123° C.

reactant | Sodium borohydride | 3.74 mmol, 71 mg | [BH4-].[Na+]
reactant | acetic acid | 12 mmol, 740 mg | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide | 1.87 mmol, 0.5 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C | C11H13N3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 4-(Ethylamino)-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide | 103 mg, 19% | C(C)NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C | C13H17N3O3S
